US05834471
N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-chlorobenzamide
4-Chlorobenzoic acid (350 mg, 2.23 mmol) was heated at reflux with thionyl chloride (3 ml) and toluene (40 ml) for 2 h, and then evaporated to dryness under reduced pressure. 4-Methoxy-3-(4-methyl-1-piperazinyl)phenylamine (494 mg, 2.23 mmol) in dry dichloromethane (40 ml) was added with triethylamine (2 ml) and the mixture stirred for 1 h. The solution was partitioned between dichloromethane (40 ml) and saturated aqueous potassium carbonate (40 ml), the organic solution dried (sodium sulphate) and evaporated to dryness under reduced pressure to afford an oil, which was purified by column chromatography (silica, chloroform,/methanol 5%) to afford the title compound (774 mg, 97%) which was crystallised from methanol/diethyl ether as the oxalate salt.

reactant | 4-Chlorobenzoic acid | 2.23 mmol, 350 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-Methoxy-3-(4-methyl-1-piperazinyl)phenylamine | 2.23 mmol, 494 mg | COC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-chlorobenzamide | 774 mg, 97% | COC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)N1CCN(CC1)C | C19H22ClN3O2
